Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo male with a history of multiple myeloma who is admitted
with nausea and vomiting and epigastic pain. The patient states
his symptoms started three days ago and have persisted. He 
states
he has not been able to eat or drink or take his medications. He
states the pain is localized to the epigastrium and denies any
RUQ pain or pain elsewhere. He denies any diarrhea and last 
moved
his bowels on ___. He denies any pain or drainage at the
site of his recent bone marrow biopsy. He had been taking an
increased dose of Lasix but has not taken any medications in the
last two days.

REVIEW OF SYSTEMS:
- All reviewed and negative except as stated in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Multiple myeloma
-ISS stage I (normal albumin, B2 microglobulin 2.5),
Durie-Salmin stage IIIA (advanced lytic lesions and normal renal
function)
___ year old male with no PMH, presented in ___ presented 
6 weeks of progressive back pain and few episodes of urinary
incontinence. Work up, including MRI of the spine; revealed
multifocal thoracic spine hypointense lesions as well as
a T7 compression deformity. Admission labs also found mild 
anemia
and hypercalcemia. + Bence ___ proteins. SPEP with monoclonal
kappa. 
Bone marrow biopsy on ___: Plasma cells comprise 22% of
aspirate material and 60-70% of core biopsy cellularity as
confirmed by ___ immunostaining. By Kappa and lambda staining,
they are Kappa restricted.
- ___: Dexamethasone pulse (total dose 120 mg over 4 days)
___ - ___: XRT to T6-L1, 400 cGy x 4 fractions
- Velcade 1.3 mg/m2 IV and dexamethasone 10 mg IV on D1,4,8,11:
C1D1 on ___
- Admission for confusion in the setting of hyponatremia and
bilateral lower extremity swelling.
- ___ C2 Velcade/Dex days 1, 4, 8, 11.
- ___ C1 CyBorD (weekly) 
Cytoxan 300mg/m2, Velcade(SQ) 1.5mg/m2, Dex ___ PO
- ___ C2 CyBorD (weekly)
Cytoxan 300mg/m2, Velcade(SQ) 1.5mg/m2, Dex ___ PO
- ___ C3 CyBorD (weekly)
Cytoxan 300mg/m2, Velcade(SQ) 1.5mg/m2, Dex ___ PO
- ___ C4 CyBorD (weekly)
Cytoxan 300mg/m2, Velcade(SQ) 1.5mg/m2, Dex ___ PO
- ___ C5 CyBor D (weekly)
Cytoxan 300mg/m2, Velcade(SQ) 1.5mg/m2, Dex ___ PO
- ___: Dx with LLL PNA; CyBorD held
- ___: CyBorD held for worsening ___ edema and cont cough,
concern for pulmonary hypertension.
- ___: Bone marrow biopsy done.

PAST MEDICAL HISTORY:
- Erectile dysfunction since ___
- Genital herpes, since ___
- Fall from a ladder, ___, c/b pain in lower left back, treated
w/ ___ and NSAIDs and resolved without complications.
- Ex-Lap, ___, after blunt stomach trauma, no definitive 
answers
were obtained, no complications resulted.
- Torn Left knee menisus.  S/p steroid shots x2. No surgical
intervention.
 
Social History:
___
Family History:
Father with ___, deceased
Mom with cancer, unclear type
Siblings: no known illnesses
Children: no known health issues

 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
General:  NAD
VITAL SIGNS: T 98.1 RR 22 BP 142/82 HR 94 O2 100%RA
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, epigastric tenderness to palpation, no guarding or
rigidity, ND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO:  Alert and oriented, no focal deficits.

=======================
DISCHARGE PHYSICAL EXAM
=======================
Vitals: Tm 98.6F Tc 97.5F BP 110/60 mmHg P 84 RR 16 O2 99% RA
General: Well-appearing man, appearing his stated age, in NAD.
HEENT: PERRL, OP clear, MMM. Anicteric sclerae.
Neck: Supple, no JVD. No LAD.
CV: RRR, no MRGs; normal S1/S2.
Pulm: CTA b/l; no wheezes, rhonchi, or rales.
Abd: Well-healed midline abdominal scar, with skin retraction. 
No tenderness to palpation. No rebound tenderness or guarding. 
NABS. No organomegaly.
Ext: Warm and well-perfused. No edema. 
Neuro: A&Ox3. CNs II-XII grossly intact. Distal sensation intact 
to light touch. Gait deferred.

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 01:00PM BLOOD WBC-6.4# RBC-2.76*# Hgb-10.3*# Hct-29.1* 
MCV-105*# MCH-37.3* MCHC-35.4 RDW-14.6 RDWSD-56.1* Plt ___
___ 01:00PM BLOOD Neuts-83.8* Lymphs-8.1* Monos-7.3 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-5.36# AbsLymp-0.52* 
AbsMono-0.47 AbsEos-0.00* AbsBaso-0.00*
___ 01:00PM BLOOD Plt ___
___ 01:00PM BLOOD Glucose-129* UreaN-10 Creat-0.8 Na-136 
K-3.6 Cl-100 HCO3-24 AnGap-16
___ 01:00PM BLOOD ALT-11 AST-34 AlkPhos-90 TotBili-1.1
___ 01:00PM BLOOD Albumin-4.0 Calcium-9.6 Phos-2.8 Mg-1.7
___ 01:08PM BLOOD Lactate-1.2

============
INTERIM LABS
============
___ 12:52AM BLOOD ALT-8 AST-34 AlkPhos-74 Amylase-112* 
TotBili-1.6* DirBili-0.4* IndBili-1.2
___ 12:00AM BLOOD Calcium-8.2* Phos-3.0 Mg-2.2 UricAcd-5.7
___ 09:10AM BLOOD TotProt-5.1*
___ 12:52AM BLOOD Hapto-28*
___ 09:10AM BLOOD PEP-PND FreeKap-PND FreeLam-PND 
b2micro-2.1 IgG-401* IgA-43* IgM-22*
___ 06:19PM BLOOD Lactate-1.5

==============
DISCHARGE LABS
==============
___ 12:00AM BLOOD WBC-3.3* RBC-2.12* Hgb-7.9* Hct-23.9* 
MCV-113* MCH-37.3* MCHC-33.1 RDW-14.8 RDWSD-61.7* Plt ___
___ 12:00AM BLOOD Neuts-50.6 ___ Monos-19.5* 
Eos-4.2 Baso-0.3 Im ___ AbsNeut-1.69 AbsLymp-0.84* 
AbsMono-0.65 AbsEos-0.14 AbsBaso-0.01
___ 12:00AM BLOOD Plt ___
___ 12:00AM BLOOD Glucose-116* UreaN-13 Creat-0.8 Na-140 
K-4.6 Cl-111* HCO3-23 AnGap-11
___ 12:00AM BLOOD ALT-11 AST-23 LD(LDH)-202 AlkPhos-68 
TotBili-0.3
___ 12:00AM BLOOD Albumin-3.3* Calcium-8.5 Phos-3.8 Mg-2.1 
UricAcd-5.2

============
MICROBIOLOGY
============
__________________________________________________________
___ 7:50 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 6:35 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 5:45 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

===============
IMAGING/STUDIES
===============
LIVER OR GALLBLADDER US (___):
FINDINGS:    
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the liver is smooth. There is no focal liver mass. 
The main portal vein is patent with hepatopetal flow. There is 
minimal ascites.   
BILE DUCTS: There is no intrahepatic biliary dilation. The CBD 
measures 8 mm.   
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening.   
PANCREAS: Imaged portion of the pancreas appears within normal 
limits, without masses or pancreatic ductal dilation, with 
portions of the pancreatic tail obscured by overlying bowel gas. 

SPLEEN: Normal echogenicity, measuring 8.9 cm.   
KIDNEYS:  Limited views of the right kidney show no evidence of 
hydronephrosis   
RETROPERITONEUM: Visualized portions of aorta and IVC are within 
normal limits. 
  
IMPRESSION:  
Small amount of free fluid in the abdomen.  No evidence of acute 

cholecystitis. The common bile duct is mildly prominent, 
measuring up to 8 mm.  Correlate with LFTs to assess need for 
additional evaluation. 

CT CHEST W/O CONTRAST (___):
IMPRESSION: 
 
1. Moderate nonhemorrhagic pericardial effusion is substantially 
increased since ___.  Without IV contrast chamber size 
is not well assessed limiting evaluation for tamponade.  
Clinical correlation and possible echocardiogram if clinically 
indicated is recommended. 
2. Small bilateral pleural effusions, left greater than right, 
are increased. 
3. New anasarca and evidence of substantial weight loss since 
the prior study. 
4. Mild interstitial abnormality with ground-glass opacities in 
the lung bases possibly reflecting pulmonary edema is slightly 
worse. 
5. Relative hypodensity of the cardiac myocardium to the blood 
pool suggests anemia. 
6. Please note CT of the abdomen and pelvis will be reported 
separately 
  
RECOMMENDATION(S):  Clinical correlation and possible 
echocardiogram to assess for cardiac tamponade. 

CT ABD & PELVIS W/O CON (___):
IMPRESSION:   
1. No evidence of lymphadenopathy or compression of the 
intra-abdominal vasculature. 
2. Diffuse lytic lesions throughout the axial skeleton, 
progressed from ___ with new compression fractures of L1 
and L3. 
3. For details regarding the chest including a new pericardial 
effusion please see dedicated chest CT report from same day 
4. Interval weight loss and anasarca. 

V/Q Scan (___):
FINDINGS:  Ventilation images demonstrate decreased ventilatory 
tracer uptake in the lung apices that is matched with the 
perfusion tracer. 
  
Perfusion images demonstrate decreased perfusion tracer uptake 
in the lung 
apices that is matched with the perfusion tracer.  
  
Chest x-ray shows no acute cardiopulmonary process.  
  
IMPRESSION:  Matched defects in the pulmonary apices. No 
evidence of chronic thromboembolic pulmonary hypertension. 

 
Brief Hospital Course:
___ is a ___ y/o man w/ a PMH of multiple myeloma 
(___ stage IIIa) s/p weekly 5 cycles of CyBorD (last 
___, possible pulmonary hypertension, ___ edema, and 
chronic back pain, who presented with three days of nausea, 
epigastric pain and one episode of emesis, Tbili of 1.7, normal 
LFTs, RUQ ultrasound w/ enlarged CBD of 8 mm.

# Nausea/vomiting.  He was treated symptomatically, with a 
rapidly advanced diet, and he improved. This was thought to have 
partially resulted from opiate withdrawal, as he had not taken 
his sustained-release morphine in several days, and his symptoms 
resolved overnight. Nausea was treated with home Compazine. 
Omeprazole was continued. Bowel regimen was continued with 
senna, docusate, Miralax, bisacodyl, and lactulose. 

# Pulmonary hypertension. Evidence of elevated PA pressure on 
prior TTE; no evidence of left sided heart failure or 
intraparenchymal lung disease to explain this. This was thought 
to potentially be adverse effect from bortezomib. He underwent a 
CT chest/abdomen/pelvis as planned prior to admission to work-up 
lower extremity edema. The preliminary reading on this 
demonstrated an interval increase in pericardial effusion. 
Repeat echocardiogram was performed, which did not demonstrate 
worsened pericardial effusion. Pulsus was 6 mmHg. Cardiology was 
consulted. V/Q scan was performed to rule-out pulmonary 
embolism; this was negative.

# Multiple myeloma. As above, (___ stage IIIa) s/p 
weekly 5 cycles of CyBorD (last ___. Last CyBorD was held  
because of lower lobe
pneumonia and then worsening lower erxtremity edema and 
pulmonary hypertension. Home prophylaxis was continued with 
Bactrim, acyclovir, mupirocin, and topical ketoconazole

# ___ syndrome. Mild unconjugated hyperbilirubinemia, with 
no evidence of hemolysis (low-normal haptoglobin), with anemia 
at baseline. Obstruction was unlikely given absence of elevated 
alkaline phosphatase. Trigger may have been missing doses of 
MSContin as outpatient, leading to withdrawal symptoms. There 
was no evidence of pancreatitis, intestional perforation or 
obstruction.

# Lower extremity edema. Chronic, for which he has been on Lasix 
in the past. Did not have significant edema on this admission. 
Restarted home Lasix at reduced dose of 20 mg BID

# Pain. Chronic and long-standing. Home pain medications were 
continued (MSContin 60 mg BID, oxycodone ___ q4h:PRN, 
gabapentin 600 mg TID, lidocaine patch qAM). 

===================
TRANSITIONAL ISSUES
===================
# Pulmonary hypertension. Cardiology was consulted; V/Q scan was 
negative. Please continue work-up for this, as you have been 
doing.
# Medication changes. Lasix was decreased to 20 mg BID as edema 
was improving. Please consider adjusting at your discretion. 
# ___ syndrome. As above, mild unconjugated 
hyperbilirubinemia, with no evidence of hemolysis. Please 
consider following LFTs for this as an outpatient. 
# Code status: FULL
# Contact: ___, sister, ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. Polyethylene Glycol 17 g PO DAILY 
4. Senna 8.6 mg PO BID 
5. Acyclovir 400 mg PO TID 
6. Furosemide 40 mg PO BID 
7. Gabapentin 600 mg PO TID 
8. Lactulose 15 mL PO TID:PRN Constipation 
9. Lidocaine 5% Patch 1 PTCH TD QAM 
10. Prochlorperazine 10 mg PO Q4H:PRN Nasuea 
11. Ondansetron 4 mg PO Q8H:PRN Nausea 
12. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
13. Acetaminophen 650 mg PO Q6H:PRN pain 
14. Mupirocin Ointment 2% 1 Appl TP BID 
15. Ketoconazole 2%  1 Appl TP BID 
16. Morphine SR (MS ___ 60 mg PO Q12H 
17. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO TID 
2. Docusate Sodium 100 mg PO BID 
3. Gabapentin 600 mg PO TID 
4. Ketoconazole 2%  1 Appl TP BID 
5. Lactulose 15 mL PO TID:PRN Constipation 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Mupirocin Ointment 2% 1 Appl TP BID 
8. Omeprazole 20 mg PO DAILY 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
10. Polyethylene Glycol 17 g PO DAILY 
11. Senna 8.6 mg PO BID 
12. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
13. Ondansetron 4 mg PO Q8H:PRN Nausea 
14. Prochlorperazine 10 mg PO Q4H:PRN Nasuea 
15. Acetaminophen 650 mg PO Q6H:PRN pain 
16. Morphine SR (MS ___ 60 mg PO Q12H 
17. Furosemide 20 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSES
=================
- multiple myeloma
- ___ syndrome
- pulmonary hypertension

===================
SECONDARY DIAGNOSES
===================
- chronic pain
- lower extremity edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at ___ 
___. You were admitted because you were experiencing 
nausea, vomiting, and abdominal pain. We performed an ultrasound 
of your abdomen to look for gallstones, and you did not have 
any. Part of your symptoms may have been caused by missing a few 
doses of morphine. You did have a slightly elevated laboratory 
test called a "bilirubin," but this improved. You may have a 
condition called ___ syndrome," which can sometimes cause 
this when people become dehydrated or are under stress. It is 
not worrisome, but it is important that you make sure to stay 
hydrated. We also scanned your lungs to make sure that you did 
not have any blood clots--you did not have any.

Your discharge follow-up appointments are outlined below. Please 
continue to take all medications as prescribed.

We wish you the very best!

Warmly,
Your ___ Team
 
Followup Instructions:
___